US06492416B1
To a stirred solution of 6 g of 2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone in 200 ml carbon tetrachloride and 100 ml chloroform, were added 5.15 g of [bis(trifluoroacetoxy)iodo]benzene (BTI) and 6.5 g of iodine. The reaction solution was stirred at room temperature. After 4 hours, the reaction was quenched by adding saturated aqueous sodium thiosulfate until the characteristic color of iodine disappeared. The quenched solution was extracted with water and dichloromethane (100 ml×3). The organic layer was concentrated in vacuo and the resulting crude product was recrystallized from hexane/ethylacetate to yield 4.5 g of 2,2-dimethyl-4-iodo-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone. NMR: δ1.53 (s, 6H), 2.79 (s, 3H), 7.81 (d, J=8.1 Hz, 2H), 8.38 (d, J=8.1 Hz, 2H). IR (cm−1): 2975, 2929, 1699, 1595, 1404, 1319, 1150, 969, 766, 552.

reactant | 2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone | 6 g | CC1(OC(=CC1=O)C1=CC=C(C=C1)S(=O)C)C | C13H14O3S
reactant | [bis(trifluoroacetoxy)iodo]benzene | 5.15 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | iodine | 6.5 g | II | I2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2-dimethyl-4-iodo-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone | 4.5 g | CC1(OC(=C(C1=O)I)C1=CC=C(C=C1)S(=O)C)C | C13H13IO3S
